Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old man with PMHx notable for HTN who 
presents 1 day following a EMR of a 2-3cm polyp in the cecum on 
___. The patient reports that he was in his usual statute of 
health and tolerated the procedure well. He reports that the 
polyp was found on routine screening colonoscopy. He reports 
that starting at 1630 on the day of admission he had painless 
bright red blood in his bowel movement. He reports that he had 
is again at ___ and it was worse and then he had 2 bouts at 
___. He reports that due to this he presented to the ___ ED 
for evaluation as the procedure was done here. He reports that 
the events were associated with lightheadedness and his heart 
racing. 

In the ED he was seen by GI. He was initially tachy to the 140s 
that came down to the ___. H/H: 12.___/38.5 on admission. He was 
admitted to the medical service for further evaluation and 
management. 

ROS: A ten point ROS was conducted and was negative except as 
above in the HPI.
 
Past Medical History:
GOUT NOS 
HYPERLIPIDEMIA NEC/NOS 
HYPERTENSION NOS 
 
 
Social History:
___
Family History:
 Mother died in her ___ from emphysema

 
Physical Exam:
Physical Exam:
Vitals:98.3, 155/86, 94, 18, 97%RA
Gen: NAD, lying in bed, pleasant
Eyes: EOMI, sclerae anicteric
ENT: MMM, OP clear
CV: RRR, no murmur
PULM: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
GU: No foley
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. Fluent speech, no facial droop.
Psych: Full range of affect

 
Pertinent Results:
Admission Labs: 
___ 11:35PM BLOOD WBC-13.4* RBC-4.21* Hgb-12.9* Hct-38.5* 
MCV-91 MCH-30.6 MCHC-33.5 RDW-12.1 RDWSD-40.3 Plt ___
___ 11:35PM BLOOD Neuts-79.8* Lymphs-11.8* Monos-7.3 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-10.70* AbsLymp-1.59 
AbsMono-0.98* AbsEos-0.02* AbsBaso-0.04
___ 11:35PM BLOOD Plt ___
___ 11:35PM BLOOD ___ PTT-26.5 ___
___ 11:35PM BLOOD Glucose-177* UreaN-16 Creat-1.1 Na-142 
K-4.2 Cl-101 HCO3-25 AnGap-20

Cecal Polyp for EMR ___:
Findings:  

 Protruding Lesions A single sessile polyp of benign appearance 
was found in the cecum at 2-3cm. Endomucosal resection was 
undertaken. Dilute methylene blue was used to create a 
submucosal cushion. The polyp lifted nicely. EMR was performed 
en bloc with excellent result. APC was applied to one edge of 
the lesion. A small visible vessel was noted at the ___ 
the EMR site, so two clips were placed to close the site to 
reduce the risk of bleeding. The polyp was removed with ___ 
net.  
 
Impression: Polyp at 2-3cm in the cecum (mucosal resection)
Otherwise normal colonoscopy to cecum 

Recommendations: EMR: There is a ___ risk of bleeding after 
endomucosal resection. If you notice blood in your stool, please 
call Dr. ___ and report to the nearest emergency 
room with a copy of this report.
We will follow-up biopsies and inform patient.
Repeat colonoscopy with Dr. ___ in 6 months to re-evaluate 
site. 

Additional notes: FINAL DIAGNOSES are listed in the impression 
section above. Estimated blood loss = zero. Specimens were taken 
for pathology as listed above. The procedure was performed by 
the fellow and the attending. I was personally present during 
the entire viewing and collaborated with the fellow on the 
findings of this report. 

 
Brief Hospital Course:
A/P: ___ year old man with PMHx notable for HTN who presents 1 
day following a EMR of a 2-3cm polyp in the cecum on ___. 

# GI Bleed s/p EMR (post polypectomy bleed): Patient had EMR for 
a 2-3 cm polyp in the cecum on ___. EMR carries a ___ risk 
of bleeding. Hemodynically stable at this time but was 
tachycardic. GI planned repeat colonoscopy which was performed 
and revealed old blood present, no active bleeding, endoclip in 
good position at site of EMR. Site was prophylactically injected 
with epinephrine.   Discussed with GI on the day of discharge 
who agreed stable for d/c, follow up if needed for recurrent 
bleeding. 

GI recommended routine follow up with Dr. ___ as needed if 
recurrent issues.

# Hypertension:
- Held home metoprolol during admission given GI bleeding as 
above. 

# HLD: Per ___ records has history of HLD. Diet controlled. 

# Gout: Per ___ records has a history of gout. Per pt this is 
actually 'pseudogout' [was formerly known as 'pseudogout' now 
actually known as calcium pyrophosphate deposition disease].  He 
had some mild rt knee pain c/w this and is not concerned and 
will manage per his usual, he was ambulatory, and on my exam the 
knee was not inflamed or hot or with effusion or erythematous. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Medications:
1. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI bleeding s/p polypectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Your colonoscopy revealed: no active bleeding.

Your gastroenterologists have recommended: that you follow up 
with your primary MD this week as well as with Dr. ___ as 
needed.

Please see below for additional instructions, and - call Dr. 
___ return to the ED here for any recurrent bleeding 
or any other symptoms that concern you (see below). 

 
Followup Instructions:
___